### PR TITLE
feat(ErdosProblems): 1088, Distinct Distances Conjecture in ℝᵈ

### LINKED ISSUE #1288: Erdős Problem 1088
### What is the conjecture

https://www.erdosproblems.com/1088

  Let $f_d(n)$ be the minimal $m$ such that any set of $m$ points in $\mathbb{R}^d$ contains a set of $n$ points such that any two determined distances are distinct. Estimate $f_d(n)$. In particular, is it true that, for fixed $n\geq 3$, $$f_d(n)=2^{o(d)}?$$

Status:open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by manastole03**
This PR adds Erdős Problem #1088, an open conjecture related to distinct distances among points in high-dimensional Euclidean space.

The problem defines a function that measures the minimum number of points required so that any such set contains a subset of points where all pairwise distances are different. The conjecture asks for estimates of this function and whether it grows subexponentially with respect to the dimension when the number of points is fixed.

Status: Open
Reference: https://www.erdosproblems.com/1088

This contribution helps expand the repository’s coverage of open Erdős problems and makes this conjecture available for future discussion and exploration.

Closes #1288

### CODE REVIEW

**Comment by manastole03** [comment]
This PR adds Erdős Problem https://github.com/google-deepmind/formal-conjectures/issues/1088, an open conjecture related to distinct distances among points in high-dimensional Euclidean space.

The problem defines a function that measures the minimum number of points required so that any such set contains a subset of points where all pairwise distances are different. The conjecture asks for estimates of this function and whether it grows subexponentially with respect to the dimension when the number of points is fixed.

Status: Open
Reference: https://www.erdosproblems.com/1088

This contribution helps expand the repository’s coverage of open Erdős problems and makes this conjecture available for future discussion and exploration.

File: FormalConjectures/ErdosProblems/1088.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+noncomputable def f (d n : ℕ) : ℕ := sInf (cardSet d n)
+
+@[category research open, AMS 51]
+theorem erdos_1088_general :
+    (∀ d ≥ 1, ∀ n ≥ 1, ∃ m, ∀ S : Finset (ℝ^d), S.card = m → hasSubsetWithDistinctDistances n S)
+    ↔ answer(sorry) := by
+  sorry
+
+@[category research open, AMS 51]
+theorem erdos_1088_exponential :
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1088.lean]: Can you please document both conjectures in latex?

**Comment by mo271** [comment]
@manastole03 are you still working on this?

File: FormalConjectures/ErdosProblems/1088.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+-/
+
+open scoped EuclideanGeometry
+
+namespace Erdos1088
+
+variable {d : ℕ}
+
+/-- A finite set of points has all pairwise distances distinct. -/
+def pairwiseDistancesDistinct (A : Finset (ℝ^d)) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1088.lean:32]:
```suggestion
def PairwiseDistancesDistinct (A : Finset (ℝ^d)) : Prop :=
```
same below

File: FormalConjectures/ErdosProblems/1088.lean [hunk 3]
```diff
@@ -0,0 +1,76 @@
...
+/--
+Erdős Problem 1088 also asks whether, for every $d \ge 3$, the least such `m` grows exponentially
+in $n$: equivalently, whether there are constants $0 < c_1 \le c_2$ such that
+$2^{c_1 n} \le f(d,n) \le 2^{c_2 n}$ for all $n \ge 1$.
+-/
+@[category research open, AMS 51]
+theorem erdos_1088_exponential :
+    answer(sorry) ↔
+      ∀ d ≥ 3, ∃ c₁ c₂ : ℕ, 0 < c₁ ∧ c₁ ≤ c₂ ∧
+        ∀ n ≥ 1, 2 ^ (c₁ * n) ≤ f d n ∧ f d n ≤ 2 ^ (c₂ * n) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1088.lean:73]: `f d n := 1.5 ^ n` is definitely exponential but wouldn't be considered so by this definition. 
```suggestion
      ∀ d ≥ 3, ∃ c₁ c₂ : \R, 0 < c₁ ∧ c₁ ≤ c₂ ∧
        ∀ n ≥ 1, 2 ^ (c₁ * n) ≤ f d n ∧ f d n ≤ 2 ^ (c₂ * n) := by
```

**Review by Paul-Lez — APPROVED** [review]
